US06716851B2
4-[3-(2-Ethyl-1-phenyl-pyrazolin-5-one-3-yl)anilino]-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3-(3-aminophenyl)-2-ethyl-1-phenyl-3-pyrazolin-5-one (54 mg, 0.193 mmol) similar to Example 58 and isolated as a dark yellow solid (52 mg, 54%). 1H NMR (DMSO-d6): 10.61 (s, 1H), 9.52 (s, 1H), 8.83-8.81 (m, 1H), 8.65 (dd, J=1.2, 7.5 Hz, 1H), 8.38 (s, 1H), 7.80 (d, J=7.8 Hz, 1H), 7.68-7.48 (m, 7H), 7.37-7.33 (m, 1H), 7.22 (s, 1H), 5.97 (s, 1H), 3.63 (q, J=6.6 Hz, 2H), 0.634 (t, J=6.6 Hz, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-(3-aminophenyl)-2-ethyl-1-phenyl-3-pyrazolin-5-one | 0.193 mmol, 54 mg | NC=1C=C(C=CC1)C=1N(N(C(C1)=O)C1=CC=CC=C1)CC | C17H17N3O
product | 4-[3-(2-Ethyl-1-phenyl-pyrazolin-5-one-3-yl)anilino]-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | C(C)N1N(C(C=C1C=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=CC1)=O)C1=CC=CC=C1 | C27H21F3N6O
